US04804661
71.9 g of 3,5-dimethoxybenzoyl chloride dissolved in 700 ml of CH2Cl2 are added at room temperature to a solution of 80.5 g of 1-(p-chlorophenethyl)-piperazine in 1200 ml of CH2Cl2. The rate of addition is so selected that the exothermic reaction remains under control. The whole is then stirred for 15 minutes under reflux and then for a further 1 hour at room temperature. After the addition of 1900 ml of diethyl ether, the whole is stirred for 15 minutes and then the resulting precipitate is filtered off with suction. The precipitate is dissolved in 3.3 litres of boiling ethanol. The colourless precipitate that is obtained after cooling to approximately 20° is filtered off with suction, washed with a little ethanol and dried under a high vacuum for 16 hours at 80°. 1-p-chlorophenethyl-4-(3,5-dimethoxybenzoyl)-piperazine hydrochloride having a melting point of 244°-246° (decomposition) is thus obtained.

reactant | 3,5-dimethoxybenzoyl chloride | 71.9 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | 1-(p-chlorophenethyl)-piperazine | 80.5 g | ClC1=CC=C(CCN2CCNCC2)C=C1 | C12H17ClN2
reactant | diethyl ether | 1900 ml | C(C)OCC | C4H10O
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1200 ml | C(Cl)Cl | CH2Cl2
product | 1-p-chlorophenethyl-4-(3,5-dimethoxybenzoyl)-piperazine hydrochloride | Cl.ClC1=CC=C(CCN2CCN(CC2)C(C2=CC(=CC(=C2)OC)OC)=O)C=C1 | InChI=1S/C21H25ClN2O3.ClH/c1-26-19-13-17(14-20(15-19)27-2)21(25)24-11-9-23(10-12-24)8-7-16-3-5-18(22)6-4-16;/h3-6,13-15H,7-12H2,1-2H3;1H
